* D:\AMP - Evan-dev\AMP_PCBv1\AMP_PCBv1\LTSpice Diff Simulator\DiffSimulator.asc
V2 P001 0 SINE(1.65 1.1 1k)
R1 N001 0 1000
R2 N004 P001 1000
R3 N002 N001 5454
R4 N004 P002 5454
XU1 N004 N001 N003 0 N002 LT1001
V4 N003 0 12
V1 P002 0 -3
.tran 0 2m 0
.lib LTC.lib
.backanno
.end
